US05674969
Preparation of tetraaminopyridinium dihydroxy terephthalate
With vigorous stirring and without the introduction of any air b) was added to a), producing a rich yellow precipitate. After further adiabatic stirring for 5 minutes, the slurry was cooled, with stirring, to about 10° C. and filtered, washed three times with about 250 ml of degassed water and twice with degassed ethanol, all this without the introduction of air, flushed with nitrogen for 45 minutes, and dried at 1 mbar, 50° C. for 18 hours to produce 16.56 grams (which corresponds to a yield of 98.2%) salt of tetraaminopyridine and 2,5-dihydroxyterephthalic acid. This salt showed a 1:1 tetraaminopyridine/2,5-dihydroxyterephthalic acid composition in NMR. It was found possible to polymerise it to very high DP polymer under standard conditions. Storing the salt of tetraaminopyridine and 2,5-dihydroxyterephthalic acid samples under air instead of under nitrogen showed only slow deterioration of its colour.

reactant | tetraaminopyridine | NC=1C(=C(C(=NC1)N)N)N | C5H9N5
reactant | 2,5-dihydroxyterephthalic acid | OC1=C(C(=O)O)C=C(C(=C1)C(=O)O)O | C8H6O6
reactant | tetraaminopyridine 2,5-dihydroxyterephthalic acid | NC=1C(=C(C(=NC1)N)N)N.OC1=C(C(=O)O)C=C(C(=C1)C(=O)O)O
product | tetraaminopyridinium dihydroxy terephthalate | OC=1C(=C(C(=O)[O-])C=CC1C(=O)[O-])O.NC1=C(C(=[N+](C=C1)N)N)N.NC1=C(C(=[N+](C=C1)N)N)N | InChI=1S/C8H6O6.2C5H9N5/c9-5-3(7(11)12)1-2-4(6(5)10)8(13)14;2*6-3-1-2-10(9)5(8)4(3)7/h1-2,9-10H,(H,11,12)(H,13,14);2*1-2H,7,9H2,(H3,6,8)
